US07820707B2
b) 3-(Trifluoromethyl)-1H-pyrazolo[4,3-c]pyridine
A suspension of 1-(4-(dimethylamino)pyridin-3-yl)-2,2,2-trifluoroethanone (259 mg, 1.187 mmol) and hydrazine monohydrochloride (244 mg, 3.56 mmol) in butan-1-ol (2.5 mL) was heated to 200° C. for 35 min. The reaction mixture was applied to a 10 g SPE cartridge that had been pre-conditioned with 3% MeOH/DCM and eluted with the same system to give a light yellow solid (189 mg, 1.0 mmol, 85%).

reactant | 1-(4-(dimethylamino)pyridin-3-yl)-2,2,2-trifluoroethanone | 1.187 mmol, 259 mg | CN(C1=C(C=NC=C1)C(C(F)(F)F)=O)C | C9H9F3N2O
reactant | hydrazine monohydrochloride | 3.56 mmol, 244 mg | Cl.NN
reactant | MeOH DCM | CO.C(Cl)Cl
solvent | butan-1-ol | 2.5 mL | C(CCC)O | C4H10O
product | 3-(Trifluoromethyl)-1H-pyrazolo[4,3-c]pyridine | 1.0 mmol, 189 mg, 85% | FC(C1=NNC2=C1C=NC=C2)(F)F | C7H4F3N3
